US06127341
N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (824 mg, 4.30 mmol) was added at 0° C. to a solution of (2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-phenylpropionic acid (1.20 g, 4.30 mmol) and 1-hydroxybenzotriazole hydrate (659 mg, 4.30 mmol) in dichloromethane (15 ml) and N,N-dimethylformamide (15 ml). The reaction mixture was stirred for 20 min at 0° C. A solution of the hydrochloride salt of (2S)-6-acetylamino-2-aminohexanoic acid dimethylamide (1.86 g, 6.44 mmol) in N,N-dimethylformamide (10 ml) was added. Ethyidiisopropylamine (2.98 ml, 17.2 mmol) was added. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. The reaction mixture was diluted with ethyl acetate (150 ml) and washed with a 10% aqueous solution of sodium hydrogen sulfate (200 ml). The aqueous solution was extracted with ethyl acetate (2×100 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogen carbonate (200 ml) and dried over magnesium sulfate. The solvent was removed. The crude product was purified by flash chromatography on silica (60 g), using dichloromethane/methanol (10:1) as eluent to give 1.81 g of N-[(1R)-1-((1S)-5-(acetylamino)-1-(dimethylcarbamoyl)pentylcarbamoyl)-2-phenylethyl]-N-methylcarbamic acid tert-butyl ester.

reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 4.30 mmol, 824 mg | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-phenylpropionic acid | 4.30 mmol, 1.20 g | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC=CC=C1 | C15H21NO4
reactant | 1-hydroxybenzotriazole hydrate | 4.30 mmol, 659 mg | O.ON1N=NC2=C1C=CC=C2
reactant | (2S)-6-acetylamino-2-aminohexanoic acid dimethylamide | 6.44 mmol, 1.86 g | CN(C([C@H](CCCCNC(C)=O)N)=O)C | C10H21N3O2
reactant | Ethyidiisopropylamine | 17.2 mmol, 2.98 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-[(1R)-1-((1S)-5-(acetylamino)-1-(dimethylcarbamoyl)pentylcarbamoyl)-2-phenylethyl]-N-methylcarbamic acid tert-butyl ester | 1.81 g | C(C)(C)(C)OC(N(C)[C@H](CC1=CC=CC=C1)C(N[C@@H](CCCCNC(C)=O)C(N(C)C)=O)=O)=O | C25H40N4O5
